US04125732
p-Chloro-β-methylphenethyl alcohol
To 833 ml. of a chilled solution (0° C.) of 1M diborane in tetrahydrofuran is added dropwise a solution of 96 g. of 2-(p-chlorophenoxy)propionic acid in 500 ml. of tetrahydrofuran. The reaction mixture is stirred for 2 days at room temperature and then poured onto 2 kg. of ice/water. The resulting mixture is extracted with diethyl ether and the extract is washed with water and dried over MgSO4. The solvent is removed under vacuum and the residual liquid is distilled to give 83 g. (b.p. 116°-120° C./0.1 mm.) of product.

reactant | diborane | 1M | B#B | B2
reactant | 2-(p-chlorophenoxy)propionic acid | ClC1=CC=C(OC(C(=O)O)C)C=C1 | C9H9ClO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-Chloro-β-methylphenethyl alcohol | ClC1=CC=C(C(CO)C)C=C1 | C9H11ClO
